US04189484
2-{4-[3-(Furan-2-yl)-acryloyl]-piperazin-1-yl}-4-amino-6,7-dimethoxyquinazoline
A mixture of 479 mg. (2 mM) of 2-chloro-4-amino-6,7-dimethoxyquinazoline and 412 mg. (2 mM) of 3-(furan-2-yl)-acryloylpiperazine in 10 ml. of isoamyl alcohol was heated under reflux for 4 hours. After ice-cooling, the crystalline substance thus separated was recovered by filtration and washed with ethanol to afford 685 mg. of the desired product as the hydrochloride.

reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 2 mM | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | 3-(furan-2-yl)-acryloylpiperazine | 2 mM | O1C(=CC=C1)C=CC(=O)N1CCNCC1 | C11H14N2O2
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 2-{4-[3-(Furan-2-yl)-acryloyl]-piperazin-1-yl}-4-amino-6,7-dimethoxyquinazoline | O1C(=CC=C1)C=CC(=O)N1CCN(CC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C21H23N5O4
